US05106871
Then, 6.05 g of 1-(4,6-dimethoxy-2-methoxycarbonylmethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone was dissolved in 50 ml of methanol, and 30 ml of a 5% aqueous solution of potassium hydroxide was added to the solution and the mixture was stirred at room temperature for 30 minutes to effect reaction. After the reaction, the reaction mixture was made acidic by addition of dilute hydrochloric acid, extracted with diethyl ether and filtered, and the solvent was removed from the filtrate by distillation and the obtained residue was recrystallized from a mixed solvent of diethyl ether and n-hexane to obtain 5.0 g (yield=87.4%) of 1-(2-carboxymethoxy-4,6-dimethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone in the form of a colorless prism.

reactant | 1-(4,6-dimethoxy-2-methoxycarbonylmethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone | 6.05 g | COC1=CC(=C(C(=C1)OC)C(CCC1=CC=C(C=C1)OC)=O)OCC(=O)OC | C21H24O7
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 1-(2-carboxymethoxy-4,6-dimethoxyphenyl)-3-(4-methoxyphenyl)-1-propanone | 5.0 g, yield=87.4% | C(=O)(O)COC1=C(C(=CC(=C1)OC)OC)C(CCC1=CC=C(C=C1)OC)=O | C20H22O7
